US08058299B2
A mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-fluoro-4-piperazin-1-yl-phenyl)-amide (0.22 g, 0.5 mmol) prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 4-(4-amino-3-fluoro-phenyl)-piperazine using a procedure similar to the one described above, (1S,2S)-cyclopentane-1,2-dicarboxylic acid monobenzyl ester (0.26 g, 0.5 mmol), N-hydroxybenzotriazole (0.1 g, 0.74 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.14 g, 0.74 mmol), N,N-diisopropylethylamine (0.26 mL, 1.5 mmol) in anhydrous dichloromethane (4 mL) was stirred at room temperature for overnight. After the reaction, solvent was evaporated. The resulted mixture was mixed with water and extracted with ethyl acetate twice. The organic layers were collected, combined, washed with brine before dried over sodium sulfate, and then concentrated to give a solid. The crude product was purified by reverse phase HPLC (10%-80% acetonitrile in water) to gave (1S,2S)-2-(4-{3-fluoro-4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid benzyl ester as a yellow solid. LCMS calcd for C35H32F4N4O5 (m/e) 664, obsd 665 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (2-fluoro-4-piperazin-1-yl-phenyl)-amide | 0.5 mmol, 0.22 g | FC1=C(C=CC(=C1)N1CCNCC1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C21H18F4N4O2
reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 4-(4-amino-3-fluoro-phenyl)-piperazine | NC1=C(C=C(C=C1)N1CCNCC1)F | C10H14FN3
reactant | (1S,2S)-cyclopentane-1,2-dicarboxylic acid monobenzyl ester | 0.5 mmol, 0.26 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1[C@H](CCC1)C(=O)O | C14H16O4
reactant | N-hydroxybenzotriazole | 0.74 mmol, 0.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.74 mmol, 0.14 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-diisopropylethylamine | 1.5 mmol, 0.26 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (1S,2S)-2-(4-{3-fluoro-4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1[C@H](CCC1)C(=O)N1CCN(CC1)C1=CC(=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)F | C35H32F4N4O5
